US05284828
L-Leu-OH (10.0 g) was dissolved in water (150 ml) containing concentrated sulfuric acid (3.2 ml) at 0° C. To the solution was added dropwise a solution of sodium nitrate (7.9 g) in water (50 ml) over 1 hour. The mixture was saturated with sodium chloride and extracted with ethyl acetate (500 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residual solid was triturated with hexane to give (2S)-2-hydroxy-4methylvaleric acid (6.51 g).

reactant | L-Leu-OH | 10.0 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sulfuric acid | 3.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | 7.9 g | [N+](=O)([O-])[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (2S)-2-hydroxy-4methylvaleric acid | 6.51 g | O[C@H](C(=O)O)CC(C)C | C6H12O3
